US04125398
48.2 g (0.1 mole) of benzyltrimethylammonium hydroxide solution (34.7% in methanol) is added to 19.1 g (0.1 mole) of N-phenylmaleamic acid in 100 ml of methanol, and the reaction mixture is stirred for one hour at room temperature. The pH-value is adjusted to about 7.0 with acetic acid, and the solvent is removed in vacuo in a rotary evaporator to leave 36.8 g of N-phenylmaleamic acid benzyltrimethyl-ammonium salt in the form of yellow oil, which crystallises after prolonged standing.

reactant | benzyltrimethylammonium hydroxide | 0.1 mole, 48.2 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | N-phenylmaleamic acid | 0.1 mole, 19.1 g | C1(=CC=CC=C1)NC(\C=C/C(=O)O)=O | C10H9NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | N-phenylmaleamic acid benzyltrimethyl-ammonium salt | 36.8 g | C(C1=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)NC(\C=C/C(=O)[O-])=O | InChI=1S/C10H9NO3.C10H16N/c12-9(6-7-10(13)14)11-8-4-2-1-3-5-8;1-11(2,3)9-10-7-5-4-6-8-10/h1-7H,(H,11,12)(H,13,14);4-8H,9H2,1-3H3/q;+1/p-1/b7-6-;
